US04220646
Anhydrous piperazine (86 g.) is added to a suspension of 6-(5-chloropyrid-2-yl)-7-oxo-5-phenoxycarbonyloxy-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine (76.4 g.) in acetonitrile (760 cc.). The reaction mixture is stirred for 5 hours at a temperature of about 20° C. and then the insoluble product is filtered off, washed with acetonitrile (3×25 cc.) and with diisopropyl ether (50 cc.). After drying, a product (30.8 g.) is obtained and is dissolved in methylene chloride (750 cc.). A small amount of insoluble matter is removed by treating the solution with decolourising charcoal (2 g.). After filtration, the solution is concentrated to dryness under reduced pressure. 6-(5-Chloropyrid-2-yl)-7-oxo-5-(piperazin-1-yl)carbonyloxy-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine (28.3 g.), which melts at 205° C., is thus obtained.

reactant | piperazine | 86 g | N1CCNCC1 | C4H10N2
reactant | 6-(5-chloropyrid-2-yl)-7-oxo-5-phenoxycarbonyloxy-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | 76.4 g | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1OC(=O)OC1=CC=CC=C1)=O | C18H11ClN4O4
solvent | acetonitrile | 760 cc | C(C)#N | C2H3N
solvent | methylene chloride | 750 cc | C(Cl)Cl | CH2Cl2
product | 6-(5-Chloropyrid-2-yl)-7-oxo-5-(piperazin-1-yl)carbonyloxy-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | 28.3 g | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1OC(=O)N1CCNCC1)=O | C16H15ClN6O3
